US05041638
2-{3-[3-(4-Fluorophenoxy)propoxy]phenyl}ethanol
By following the procedure of example 9 and using 3-(4-fluorophenoxy)propyl bromide rather than 4-phenoxybutyl bromide and 2-(3-hydroxyphenyl)ethanol rather than 2-(4-hydroxyphenyl)ethanol, the title compound was prepared.

reactant | 3-(4-fluorophenoxy)propyl bromide | FC1=CC=C(OCCCBr)C=C1 | C9H10BrFO
reactant | 4-phenoxybutyl bromide | O(C1=CC=CC=C1)CCCCBr | C10H13BrO
reactant | 2-(3-hydroxyphenyl)ethanol | OC=1C=C(C=CC1)CCO | C8H10O2
reactant | 2-(4-hydroxyphenyl)ethanol | OC1=CC=C(C=C1)CCO | C8H10O2
product | 2-{3-[3-(4-Fluorophenoxy)propoxy]phenyl}ethanol | Yield: 95% | FC1=CC=C(OCCCOC=2C=C(C=CC2)CCO)C=C1 | C17H19FO3
